US08349851B2
To a stirred solution of ethyl 4-(1H-pyrazol-3-ylamino)quinazoline-2-carboxylate (595 mg, 2.1 mmol) in THF (15 mL) at −40° C., was added dropwise a 2 M solution of 4-fluorophenylmagnesium bromide in THF (4.2 mL, 8.4 mmol). The mixture was stirred at −40° C. for 2 h and then stored at −30° C. for 18 h. The reaction was quenched by adding 0.5 N HCl at 0° C. and the mixture was extracted with EtOAc (2×20 mL). The solid precipitate from the combined organic layers was removed by filtration and the resulting filtrate was washed with brine. The organic phase was dried over MgSO4, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography eluting with 0-5% MeOH/DCM to afford (4-(1H-pyrazol-3-ylamino)quinazolin-2-yl)bis(4-fluorophenyl)methanol as a solid (75 mg, 8%). 1H NMR (300 MHz, DMSO-d6) δ 12.50 (s, 1H), 10.66 (s, 1H), 8.67 (d, J=8.1, 1H), 7.81-7.87 (m, 2H), 7.60-7.62 (m, 2H), 7.42-7.47 (m, 4H), 7.07-7.13 (m, 4H), 6.66 (s, 1H), 6.26 (s, 1H); LC-MS (ESI) m/z 430 (M+H)+.

reactant | ethyl 4-(1H-pyrazol-3-ylamino)quinazoline-2-carboxylate | 2.1 mmol, 595 mg | N1N=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C14H13N5O2
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 8.4 mmol, 4.2 mL | C1CCOC1 | C4H8O
product | (4-(1H-pyrazol-3-ylamino)quinazolin-2-yl)bis(4-fluorophenyl)methanol | 75 mg, 8% | N1N=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C24H17F2N5O
